US06939874B2
NaH (7.08 g, 177 mmol) (60% in oil) was washed with hexanes (3× under N2), suspended in 250 mL of THF and cooled to 0° C. To this mixture was added 20.1 g (115 mmol) of trimethylphosphonoacetate in 20 mL of THF and the resulting mixture was stirred at 20° C. for 30 min. 1-Methylpiperid-4-one (10 g, 88.5 mmol) in 25 mL of THF was added and stirring was continued for 4 h. Water (5 mL) was carefully added and the mixture was poured into brine, extracted with 800 mL EtOAc. Drying and evaporation gave crude (1-methyl-piperidin-4-ylidene)-acetic acid methyl ester as a 1:1 mixture of isomers.

reactant | NaH | 177 mmol, 7.08 g | [H-].[Na+]
reactant | trimethylphosphonoacetate | 115 mmol, 20.1 g | CC(C)(C(=O)[O-])P(=O)(O)OC
reactant | 1-Methylpiperid-4-one | 88.5 mmol, 10 g | CN1CCC(CC1)=O | C6H11NO
reactant | Water | 5 mL | O | H2O
reactant | THF | 250 mL | C1CCOC1 | C4H8O
reactant | THF | 20 mL | C1CCOC1 | C4H8O
reactant | THF | 25 mL | C1CCOC1 | C4H8O
solvent | brine | [Cl-].[Na+].O
product | (1-methyl-piperidin-4-ylidene)-acetic acid methyl ester | COC(C=C1CCN(CC1)C)=O | C9H15NO2
